US05807860
5,6,7,8-Tetrahydro-2-naphthol (50 g, 0.337 mol) was mixed with ether (400 ml), and the mixture was added dropwise with 60% nitric acid (28 ml, 0.368 mol) while the reaction temperature was kept below 15° C. , and then stirring was continued at 15° to 20° C. for 1 hour. The reaction mixture was added with water (500 ml) and extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous sodium sulfate, and then the solvent was evaporated. The residue was purified by silica gel chromatography (Wako Gell C-300: 900 g, eluent: hexane/ethyl acetate=50/1 to 60/1) to give 2-hydroxy-5,6,7,8-tetrahydro-1-nitronaphthalene (21.2 g).

reactant | 5,6,7,8-Tetrahydro-2-naphthol | 0.337 mol, 50 g | C1=C(C=CC=2CCCCC12)O | C10H12O
reactant | ether | 400 ml | CCOCC | C4H10O
reactant | nitric acid | 0.368 mol, 28 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | 500 ml | O | H2O
product | 2-hydroxy-5,6,7,8-tetrahydro-1-nitronaphthalene | 21.2 g | OC1=C(C=2CCCCC2C=C1)[N+](=O)[O-] | C10H11NO3
